US05889026
4-Benzyloxybenzoic acid (0.685 g, 3 mmol) was dissolved in DMF (6 ml), and 1,1,-carbonyldiimidazole (0.58 g, 3.6 mmol) was added portionwise. The reaction mixture was heated to 55°-60° C. for 20 min. and then cooled to room temperature. A solution of 1-(2-hydroxy-ethyl)-4-(4-methyl-benzyl)-piperidin-4-ol (0.78 g, 3.3 mmol) in DMF (2 ml) was added. The reaction mixture was stirred 23 hours at room temperature and 4 hours at 60° C. H2O (50 ml) was added followed by CH2Cl2. Organic phase was washed with sat. NaHCO3, dried over Na2SO4, and concentrated. The residue was chromatographed over silica gel (CH2Cl2 --MeOH, 19:1) to provide 4-benzyloxy-benzoic acid 2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-ethyl ester (0.65 g, 47%) as a colorless solid, m.p. 102° C. and MS: m/e=460.3 (M+H+).

reactant | 4-Benzyloxybenzoic acid | 3 mmol, 0.685 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | carbonyldiimidazole | 3.6 mmol, 0.58 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(2-hydroxy-ethyl)-4-(4-methyl-benzyl)-piperidin-4-ol | 3.3 mmol, 0.78 g | OCCN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C15H23NO2
reactant | H2O | 50 ml | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-benzyloxy-benzoic acid 2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-ethyl ester | 0.65 g, 47% | OC1(CCN(CC1)CCOC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C | C29H33NO4
